US05965487
4-(2-methyl-4-chlorophenoxy) butyric acid (MCPB);
4-(2,4-dichlorophenoxy)butyric acid (2,4-DB), or ((3,5,6-trichloro-2-pyridinyl)oxy)acetic acid (triclopyr)

reactant | 4-(2,4-dichlorophenoxy)butyric acid | ClC1=C(OCCCC(=O)O)C=CC(=C1)Cl | C10H10Cl2O3
reactant | ((3,5,6-trichloro-2-pyridinyl)oxy)acetic acid | ClC=1C(=NC(=C(C1)Cl)Cl)OCC(=O)O | C7H4Cl3NO3
product | 4-(2-methyl-4-chlorophenoxy) butyric acid | CC1=C(OCCCC(=O)O)C=CC(=C1)Cl | C11H13ClO3
